US05654285
i) 2-Propylthio-pyrimidine-4,6-diol
To a solution of 4,6-dihydroxy-2-mercaptopyrimidine (100 g) in potassium hydroxide (2.5N, 571 ml) was added propyl iodide (76.8 ml) and the whole was stirred for 4 days. The solution was acidified to pH 2-3 and filtered to afford the sub-title compound (15 g).

reactant | 4,6-dihydroxy-2-mercaptopyrimidine | 100 g | OC1=NC(=NC(=C1)O)S | C4H4N2O2S
reactant | propyl iodide | 76.8 ml | C(CC)I | C3H7I
solvent | potassium hydroxide | 2.5N, 571 ml | [OH-].[K+]
product | 2-Propylthio-pyrimidine-4,6-diol | 15 g | C(CC)SC1=NC(=CC(=N1)O)O | C7H10N2O2S
